US04256884
SYNTHESIS OF 1-(2-CARBOMETHOXYBENZOYL)-3-HYDROXY-6(1H)-PYRIDAZINONE
Into a 100 ml round-bottomed flask fitted with a stirrer and reflux condenser there was charged 10.8 g (0.06 mole) of 2-carbomethoxybenzoic acid and 50 ml of chloroform. There was then added 7.8 G (0.066 mole) of SOCl2, followed by refluxing for 2 hr. The chloroform was then removed by distillation, followed by addition of 50 ml. of dimethoxyethane, 4.7 g (0.06 mole) of pyridine and 6.7 g (0.06 mole) of maleic hydrazide. The mixture was allowed to stir over night. The resulting reaction mixture was filtered to remove solids. Then the product was precipitated from the filtrate by addition of water and was recovered as a solid by filtration. The solid material was washed with hexane-ether solvent mixture and was filtered and dried. The yield was 6.6 g, m.p. 144°-145° C. Infrared and nuclear magnetic resonance spectra were consistent with the structure of the compound as named above.

reactant | 2-carbomethoxybenzoic acid | 0.06 mole, 10.8 g | C(=O)(OC)C1=C(C(=O)O)C=CC=C1 | C9H8O4
reactant | SOCl2 | 0.066 mole | O=S(Cl)Cl | Cl2OS
reactant | pyridine | 0.06 mole, 4.7 g | N1=CC=CC=C1 | C5H5N
reactant | maleic hydrazide | 0.06 mole, 6.7 g | C(\C=C/C(=O)O)(=O)NN | C4H6N2O3
solvent | dimethoxyethane | C(OC)COC | C4H10O2
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-(2-CARBOMETHOXYBENZOYL)-3-HYDROXY-6(1H)-PYRIDAZINONE | C(=O)(OC)C1=C(C(=O)N2N=C(C=CC2=O)O)C=CC=C1 | C13H10N2O5
